US05773428
2-(Ethoxy) (quinolin-2-ylthiomethyl)-phosphinoyl-methyl-4-methylpentanoic acid ethyl ester (4.5 g) was dissolved in 100 mL THF and 12.5 mL of 2N NaOH was added together with enough methanol to make the solution homogeneous. After 18 hours the THF was removed by evaporation, the residue diluted with 50 mL H2O and washed with 50 mL ethyl acetate. The aqueous phase was then acidified to pH 4, and the product extracted with 50 mL ethyl acetate (2×). The ethyl acetate was washed with 20 mL brine, dried with MgSO4 and evaporated to yield 3.8 g of 2-(hydroxy) (quinolin-2-ylthiomethyl)-phosphinoyl-methyl-4-methylpentanoic acid as a yellow oil, MS: 368 (MH+).

reactant | 2-(Ethoxy) (quinolin-2-ylthiomethyl)-phosphinoyl-methyl-4-methylpentanoic acid ethyl ester | 4.5 g | C(C)OC(C(C(C(C)C)([PH2]=O)CSC1=NC2=CC=CC=C2C=C1)(OCC)C)=O | C21H30NO4PS
reactant | NaOH | 2N, 12.5 mL | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(hydroxy) (quinolin-2-ylthiomethyl)-phosphinoyl-methyl-4-methylpentanoic acid | 3.8 g | OC(C(=O)O)(C(C(C)C)([PH2]=O)CSC1=NC2=CC=CC=C2C=C1)C | C17H22NO4PS
